US08877742B2
1-methyl-1H-pyrazole-3-sulfonamide
A solution of 1-methyl-1H-pyrazole-3-sulfonyl chloride (3 g, 16.61 mmol) in THF (100 mL) was cooled to 0° C. and to it was added dropwise ammonium hydroxide (6.47 mL, 166 mmol). The reaction mixture was allowed to warm to RT and left to stir for 3 hours. The reaction mixture was concentrated in vacuo. The solid formed was filtered and washed with water (2×20 mL) to give the title compound. The filtrate was extracted with ethyl acetate (3×50 mL). The combined organics were dried over magnesium sulfate, filtered and concentrated to give another batch of the title compound. Both batches were combined to give the title compound (3.27 g). LCMS (A): m/z (M+H)+ 162, C4H7N3O2S requires 161 (acidic).

reactant | 1-methyl-1H-pyrazole-3-sulfonyl chloride | 16.61 mmol, 3 g | CN1N=C(C=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | ammonium hydroxide | 166 mmol, 6.47 mL | [OH-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-methyl-1H-pyrazole-3-sulfonamide | CN1N=C(C=C1)S(=O)(=O)N | C4H7N3O2S
